US06232290B1
A solution of 2-(4-heptyloxyphenyl)-5-(4-bromophenyl)thiazole (2.06 g) in dry tetrahydrofuran (60 ml) was cooled to −60° C., and a solution of n-butyllithium (1.56M) in n-hexane, 4.05 ml) was added slowly to maintain the reaction temperature at −60° C. After stirring for 1 hour, dry-ice (4 g) was added. The reaction mixture was allowed to warm to room temperature over 30 minutes. To the reaction mixture was added water (20 ml) and 0.5N hydrochloric acid (80 ml), then extracted with dichloromethane (700 ml). The organic layer was washed with brine, and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The solids were slurried in acetonitrile and collected by filtration to give 4-[5-(4-heptyloxyphenyl)thiazol-2-yl]benzoic acid (1.68 g).

reactant | 2-(4-heptyloxyphenyl)-5-(4-bromophenyl)thiazole | 2.06 g | C(CCCCCC)OC1=CC=C(C=C1)C=1SC(=CN1)C1=CC=C(C=C1)Br | C22H24BrNOS
reactant | n-butyllithium | 1.56M | C(CCC)[Li]
reactant | dry-ice | 4 g | C(=O)=O | CO2
reactant | hydrochloric acid | 0.5N, 80 ml | Cl | ClH
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | water | 20 ml | O | H2O
product | 4-[5-(4-heptyloxyphenyl)thiazol-2-yl]benzoic acid | 1.68 g | C(CCCCCC)OC1=CC=C(C=C1)C1=CN=C(S1)C1=CC=C(C(=O)O)C=C1 | C23H25NO3S
